US09334267B2
Treat a solution of prop-1-en-2-yl (3,3-dimethylbutyl)carbamate (0.039 g, 0.209 mmol) and 6-(5-amino-2,4-difluorophenyl)-N-methylpyrido[2,3-d]pyrimidin-2-amine (0.060 g, 0.209 mmol) in dioxane (5 mL) with catalytic 1-methylpyrrolidine (1.8 mg, 0.021 mmol) and heat at 65° C. overnight. Add 2,3,4,6,7,8,9,10-Octahydropyrimidol[1,2-a]azepine (0.1 mL) and additional prop-1-en-2-yl (3,3-dimethylbutyl) (25 mg, 0.135 mmol) and heat the mixture at 85° C. overnight. Add additional 2,3,4,6,7,8,9,10-Octahydropyrimidol[1,2-a]azepine (0.1 mL) and prop-1-en-2-yl (3,3-dimethylbutyl) (25 mg, 0.135 mmol) and heat the mixture at 85° C. for another 24 h. Cool the mixture to RT, concentrate to dryness and purify via silica gel chromatography (EtOAc/Hexane). Treat the resulting material with DCM, allow to stand at RT overnight, and collect the solid via filtration to afford 1-(2,4-difluoro-5-(2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(3,3-dimethylbutyl)urea (30 mg, 35% yield). MS (m/z): 415.2 (M+1).

reactant | prop-1-en-2-yl (3,3-dimethylbutyl)carbamate | 0.209 mmol, 0.039 g | CC(CCNC(OC(=C)C)=O)(C)C | C10H19NO2
reactant | 6-(5-amino-2,4-difluorophenyl)-N-methylpyrido[2,3-d]pyrimidin-2-amine | 0.209 mmol, 0.060 g | NC=1C(=CC(=C(C1)C1=CC2=C(N=C(N=C2)NC)N=C1)F)F | C14H11F2N5
reactant | 1-methylpyrrolidine | 0.021 mmol, 1.8 mg | CN1CCCC1 | C5H11N
reactant | 2,3,4,6,7,8,9,10-Octahydropyrimidol[1,2-a]azepine | 0.1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2,3,4,6,7,8,9,10-Octahydropyrimidol[1,2-a]azepine | 0.1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(2,4-difluoro-5-(2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(3,3-dimethylbutyl)urea | 30 mg, 35% yield | FC1=C(C=C(C(=C1)F)C1=CC2=C(N=C(N=C2)NC)N=C1)NC(=O)NCCC(C)(C)C | C21H24F2N6O
